US04281000
A mixture of 50.0 g. of 3-acetylfuran and 60 ml. of N,N-dimethylformamide is heated at reflux temperature for 16 hours. The solvent is removed in vacuo and hexane is added to the residue to give 3-dimethylamino-1-(3-furyl)-2-propen-1-one. A mixture of 0.01 mole of the preceding compound and 0.01 mole of 3-aminopyrazole in glacial acetic acid is refluxed for 8 hours and the solvent removed in vacuo. The residue is purified as described in Example 1 to give the product of the example.

reactant | 3-acetylfuran | C(C)(=O)C1=COC=C1 | C6H6O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-dimethylamino-1-(3-furyl)-2-propen-1-one | CN(C=CC(=O)C1=COC=C1)C | C9H11NO2
